US08034953B2
4-Amino-N′-{[(benzylamino)carbonyl]oxy}-N-(3-chloro-4-fluorophenyl)-1,2,5-oxadiazole-3-carboximidamide
A solution of 4-amino-N-(3-chloro-4-fluorophenyl)-N′-hydroxy-1,2,5-oxadiazole-3-carboximidamide (50 mg, 0.18 mmol) and N,N-diisopropylethylamine (64 μL, 0.37 mmol) in dichloromethane (2 mL) was treated with benzyl isocyanate (29 mg, 0.22 mmol) and stirred for 3 h. The reaction mixture was concentrated and purified by preparative LCMS to give the desired product (18 mg, 24%). LCMS for C17H15ClFN6O3 (M+H)+: m/z=405.0.

reactant | 4-amino-N-(3-chloro-4-fluorophenyl)-N′-hydroxy-1,2,5-oxadiazole-3-carboximidamide | 0.18 mmol, 50 mg | NC=1C(=NON1)C(NC1=CC(=C(C=C1)F)Cl)=NO | C9H7ClFN5O2
reactant | N,N-diisopropylethylamine | 0.37 mmol, 64 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl isocyanate | 0.22 mmol, 29 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-Amino-N′-{[(benzylamino)carbonyl]oxy}-N-(3-chloro-4-fluorophenyl)-1,2,5-oxadiazole-3-carboximidamide | 18 mg, 24% | NC=1C(=NON1)C(NC1=CC(=C(C=C1)F)Cl)=NOC(=O)NCC1=CC=CC=C1 | C17H14ClFN6O3
